US04301243
19.6 g of maleic acid anhydride are dissolved in 500 ml of toluene at 90° C. The temperature is maintained at 90° C. while 48.2 g of hexadecylamine, dissolved in 200 ml of toluene are added dropwise within 45 minutes. After one more hour at 90° C. followed by cooling, the resulting precipitate is suction filtered and washed with methanol. 44.5 g of N-hexadecylmaleic amide melting at 101° to 102.5° C. are obtained.

reactant | maleic acid anhydride | 19.6 g | C1(\C=C/C(=O)O1)=O | C4H2O3
reactant | hexadecylamine | 48.2 g | C(CCCCCCCCCCCCCCC)N | C16H35N
solvent | toluene | 500 ml | C1(=CC=CC=C1)C | C7H8
solvent | toluene | 200 ml | C1(=CC=CC=C1)C | C7H8
product | N-hexadecylmaleic amide | 44.5 g | C(CCCCCCCCCCCCCCC)NC(\C=C/C(=O)O)=O | C20H37NO3
